US05447931
6-chloro-2-(4-methylpiperazinyl)pyridine hydrochloride
To a solution of 7.5 g (0.05 mol) of 2,6-dichloropyridine in 70 ml of DMSO, 6.9 g (0.05 tool) of anhydrous K2CO3 and 5.5 ml (0.05 tool) of N-methyl piperazine are added. The mixture is stirred at 80° C. for 4 hours, then poured into ice/water and extracted with ethyl acetate, dried over Na2SO4 , filtered and the solvent is evaporated off. The residue is dissolved in 30 ml of hydrogen chloride saturated isopropanol. The precipitate is collected by filtration and recrystallized from isopropanol to provide 4.8 g of a white powder. M.p. 225°-227° C. For a better purification, the above product is dissolved in a diluited solution of NaOH, extracted with ethyl acetate, the organic phase is washed with water, stirred for 10 min. with some silica gel, dried over Na2SO4, filtered and the solvent is evaporated off.

reactant | 2,6-dichloropyridine | 0.05 mol, 7.5 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | K2CO3 | 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl piperazine | 5.5 ml | CN1CCNCC1 | C5H12N2
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 6-chloro-2-(4-methylpiperazinyl)pyridine hydrochloride | 4.8 g | Cl.ClC1=CC=CC(=N1)N1CCN(CC1)C | InChI=1S/C10H14ClN3.ClH/c1-13-5-7-14(8-6-13)10-4-2-3-9(11)12-10;/h2-4H,5-8H2,1H3;1H
